US06492421B1
N-(Toluene-4-sulfonyl)-L-prolyl-O-[(1-tert-butoxycarbonyl)-piperidin-3-yl)methyl]-L-tyrosine methyl ester was prepared via O-alkylation of N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester with N-Boc-3-piperidinemethyl tosylate in refluxing 2-butanone in the presence of potassium carbonate and sodium iodide to provide a solid, mp=60-62° C.

reactant | N-(toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)O)=O | C22H26N2O6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | L-tyrosine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
